US08247436B2
Step 4: 3-(2,5-Dimethyl-1H-pyrrol-1-yl)-6-ethoxy-5-(trifluoromethyl)picolinic acid
Methyl 3-(2,5-dimethyl-1H-pyrrol-1-yl)-6-ethoxy-5-(trifluoromethyl)picolinate (140 mg, 0.409 mmol) was dissolved in THF (2.045 ml). NaOH (0.613 ml, 1.226 mmol) was added and heated at reflux for 6 hours. The solvent was removed in vacuo and the resulting mixture was diluted with EtOAc (25 ml) was acidified to pH 1 using HCl (5M). The organic portion washed with brine, dried using a phase separator and concentrated in vacuo to afford the title compound as a yellow oil.

reactant | Methyl 3-(2,5-dimethyl-1H-pyrrol-1-yl)-6-ethoxy-5-(trifluoromethyl)picolinate | 0.409 mmol, 140 mg | CC=1N(C(=CC1)C)C=1C(=NC(=C(C1)C(F)(F)F)OCC)C(=O)OC | C16H17F3N2O3
reactant | NaOH | 1.226 mmol, 0.613 ml | [OH-].[Na+]
solvent | THF | 2.045 ml | C1CCOC1 | C4H8O
product | 3-(2,5-Dimethyl-1H-pyrrol-1-yl)-6-ethoxy-5-(trifluoromethyl)picolinic acid | CC=1N(C(=CC1)C)C=1C(=NC(=C(C1)C(F)(F)F)OCC)C(=O)O | C15H15F3N2O3
